US07795247B2
Step 2: methyl 3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-2-(2-formyl-4-methoxyphenyl)-1H-indole-6-carboxylate
To a solution of methyl 2-bromo-3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-1H-indole-6-carboxylate in dioxane (0.1 M) was added Na2CO3 (6 eq, 2 M aqueous solution), 4-methoxy-2-formylphenylboronic acid (2 eq) and bis(triphenylphosphine) palladium(II) dichloride (0.2 eq). The mixture was degassed before being heated at reflux for 30 min. RP-HPLC analysis of the reaction mixture showed starting material persisted. The reaction mixture was allowed to cool and an additional 1 eq of 4-methoxy-2-formylphenylboronic acid and 0.1 eq of bis(triphenylphosphine)palladium(II) dichloride introduced. Heating at reflux was then resumed for a further 30 min. The reaction was allowed to cool to RT and partitioned between water and EtOAc. The aqueous fraction was extracted with EtOAc and the combined organics washed with aqueous HCl (1N), water and brine before being dried over Na2SO4, filtered and concentrated in vacuo. The crude material was purified by flash chromatography (10-20% gradient EtOAc/PE) to afford the title compound as a yellow foam (72%); MS (ES+) m/z 478 (M+H)+

reactant | methyl 2-bromo-3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-1H-indole-6-carboxylate | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC1OCCO1 | C20H24BrNO4
reactant | Na2CO3 | 2 M, 6 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-methoxy-2-formylphenylboronic acid | 2 eq | COC1=CC(=C(C=C1)B(O)O)C=O | C8H9BO4
reactant | 4-methoxy-2-formylphenylboronic acid | 1 eq | COC1=CC(=C(C=C1)B(O)O)C=O | C8H9BO4
solvent | dioxane | 0.1 M | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine) palladium(II) dichloride | 0.2 eq | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-2-(2-formyl-4-methoxyphenyl)-1H-indole-6-carboxylate | 72% | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC1OCCO1)C1=C(C=C(C=C1)OC)C=O | C28H31NO6
